US06784192B2
[2-(Methylsulfonyl)-3,4-methylenedioxyphenyl]methanol
571 mg of 1-[(ethoxymethoxy)methyl)-2-(methylsulfonyl)-3,4-methylenedioxybenzene was dissolved in 2 ml of dichloromethane, 2 ml of trifluoroacetic acid was added, and the mixture was stirred at room temperature for 30 minutes. The solvent was evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2), to give 308 mg of the title compound as a colorless oil.

reactant | 1-[(ethoxymethoxy)methyl)-2-(methylsulfonyl)-3,4-methylenedioxybenzene | 571 mg | C(C)OCOCC1=C(C2=C(C=C1)OCO2)S(=O)(=O)C | C12H16O6S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | [2-(Methylsulfonyl)-3,4-methylenedioxyphenyl]methanol | 308 mg | CS(=O)(=O)C1=C(C=CC2=C1OCO2)CO | C9H10O5S
